US04769369
Trans-6-[2-(4-methoxyphenyl)ethenyl]-2-[2-(dimethylamino)ethyl]-phthalazin-1(2H)-one hydrobromide
6-Bromo-2-[2-(dimethyamino)ethyl]phthalazin-1(2H)-one (7.2 gm, 0.018 mole) (prepared as in Example I, except that 2-(dimethylamino)ethyl chloride hydrochloride was substituted for the 2-(diisopropylamino)ethyl chloride hydrochloride) was stirred into 16 ml DMSO plus 16 ml acetonitrile. To the resulting mixture was added 4.5 gm 4-methoxystyrene (0.033 mole), 0.1 gm tri(o-tolyl)phosphine, and 0.02 gm palladium acetate. The reaction mixture was stirred at reflux (95°-100° C.) for 24 hours. Allowed to cool to about 60° C. and diluted with 60 ml of isopropanol. Stirred for an hour, filtered, washed to colorless washings with isopropanol and dried. The product weighed 10.7 gm. After recrystallization from 240 ml methoxyethanol the product weighed 6.4 gm and melted at 265°-267° C.

reactant | 6-Bromo-2-[2-(dimethyamino)ethyl]phthalazin-1(2H)-one | 0.018 mole, 7.2 gm | BrC=1C=C2C=NN(C(C2=CC1)=O)CCN(C)C | C12H14BrN3O
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | Cl.CN(CCCl)C
reactant | 2-(diisopropylamino)ethyl chloride hydrochloride | Cl.C(C)(C)N(CCCl)C(C)C
reactant | 4-methoxystyrene | 0.033 mole, 4.5 gm | COC1=CC=C(C=C)C=C1 | C9H10O
reactant | tri(o-tolyl)phosphine | 0.1 gm | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | isopropanol | 60 ml | C(C)(C)O | C3H8O
catalyst | palladium acetate | 0.02 gm | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
solvent | DMSO | 16 ml | CS(=O)C | C2H6OS
product | Trans-6-[2-(4-methoxyphenyl)ethenyl]-2-[2-(dimethylamino)ethyl]-phthalazin-1(2H)-one hydrobromide | Br.COC1=CC=C(C=C1)/C=C/C=1C=C2C=NN(C(C2=CC1)=O)CCN(C)C | InChI=1S/C21H23N3O2.BrH/c1-23(2)12-13-24-21(25)20-11-8-17(14-18(20)15-22-24)5-4-16-6-9-19(26-3)10-7-16;/h4-11,14-15H,12-13H2,1-3H3;1H/b5-4+;
